US09227956B2
tert-butyl 3-[(3-chloropyridin-2-yl){4-[5-(ethoxycarbonyl)-1-methyl-1H-pyrazol-4-yl]benzoyl}amino]piperidine-1-carboxylate
Preparation 13 ethyl 4-iodo-1-methyl-1H-pyrazole-5-carboxylate (108.5 g, 387.4 mmol) was dissolved in 1 L of THF and the resulting solution was cooled to −52° C. Isopropylmagnesium chloride (2 mol/L solution in THF, 200 mL, 400 mmol) was added over 27 minutes keeping the internal temperature <−39° C., followed by addition of zinc chloride (1.9 mol/L in 2-MeTHF, 120 mL, 230 mmol) over 15 minutes keeping the internal temperature <−39° C. The reaction was then warmed to 40° C. followed by addition of Preparation 10 tert-butyl (3R)-3-[(4-bromobenzoyl)(3-chloropyridin-2-yl)amino]piperidine-1-carboxylate (158.27 g, 319.9 mmol) and 1,1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride (4.60 g, 6.92 mmol). The reaction was warmed further to 55° C. and held for 2 h. After cooling to room temperature, the crude reaction mixture was filtered through Celite® and the filtrate was concentrated to give a foam. This material was re-dissolved in 1 L of 2-MeTHF and washed with 400 mL of water followed by filtration of the biphasic mixture and phase separation. 2-MeTHF was removed in vacuo and replaced with EtOH, then the solution was concentrated to a final volume of 1.5 L, resulting in precipitation of solids which were collected via filtration. After drying, the title compound was isolated as a tan solid (141.5 g, 78% yield).

reactant | ethyl 4-iodo-1-methyl-1H-pyrazole-5-carboxylate | 387.4 mmol, 108.5 g | IC=1C=NN(C1C(=O)OCC)C | C7H9IN2O2
reactant | Isopropylmagnesium chloride | 400 mmol, 2 mol/L, 200 mL | C(C)(C)[Mg]Cl
reactant | tert-butyl (3R)-3-[(4-bromobenzoyl)(3-chloropyridin-2-yl)amino]piperidine-1-carboxylate | 319.9 mmol, 158.27 g | BrC1=CC=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C2=NC=CC=C2Cl)C=C1 | C22H25BrClN3O3
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | 2-MeTHF | 1 L | CC1CCCO1 | C5H10O
catalyst | zinc chloride | 230 mmol, 1.9 mol/L, 120 mL | [Cl-].[Zn+2].[Cl-]
catalyst | 1,1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride | 6.92 mmol, 4.60 g | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | tert-butyl 3-[(3-chloropyridin-2-yl){4-[5-(ethoxycarbonyl)-1-methyl-1H-pyrazol-4-yl]benzoyl}amino]piperidine-1-carboxylate | ClC=1C(=NC=CC1)N(C1CN(CCC1)C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)C=1C=NN(C1C(=O)OCC)C)=O | C29H34ClN5O5
